US08431563B2
A 250-mL round-bottomed flask was charged with methyl N-(tert-butoxycarbonyl)-3-(tetrahydro-2H-pyran-4-yl)-L-alanylglycinate (3.00 g, 8.71 mmol), 10 mL of CH2Cl2, and 5 mL of TFA. After 10 min at room temperature, the mixture was concentrated then dissolved in 2N NH3 in MeOH (20 mL) and stirred at room temperature for 4 h. The reaction was then concentrated and triturated with ether to give (3S)-3-(tetrahydro-2H-pyran-4-ylmethyl)-2,5-piperazinedione (1.44 g) as a white solid.

reactant | methyl N-(tert-butoxycarbonyl)-3-(tetrahydro-2H-pyran-4-yl)-L-alanylglycinate | 8.71 mmol, 3.00 g | C(C)(C)(C)OC(=O)N[C@@H](CC1CCOCC1)C(=O)NCC(=O)OC | C16H28N2O6
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | (3S)-3-(tetrahydro-2H-pyran-4-ylmethyl)-2,5-piperazinedione | 1.44 g | O1CCC(CC1)C[C@H]1C(NCC(N1)=O)=O | C10H16N2O3
